US07528147B2
{1-[2-(5,6-Dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}methylamine dihydrochloride is prepared as described in Example 201 starting with 0.027 g of {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-ylmethyl}carbamic acid tert-butyl ester instead of the {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}carbamic acid tert-butyl ester used in Example 201 and 1.35 cm3 of hydrochloric acid (4N in dioxane). 0.005 g of {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}methylamine dihydrochloride is obtained, the characteristics of which are as follows:

reactant | {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-ylmethyl}carbamic acid tert-butyl ester | 0.027 g | C(C)(C)(C)OC(NCC1CN(C1)CC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)C)S(=O)(=O)C2=CC=C(C=C2)C)=O | C35H41N5O6S
reactant | hydrochloric acid | 4N, 1.35 cm3 | Cl | ClH
product | {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}methylamine dihydrochloride | 0.005 g | Cl.Cl.COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CN2CC(C2)CN)N1 | InChI=1S/C23H27N5O2.2ClH/c1-27-13-18(17-7-21(29-2)22(30-3)8-20(17)27)19-6-16-15(4-5-25-23(16)26-19)12-28-10-14(9-24)11-28;;/h4-8,13-14H,9-12,24H2,1-3H3,(H,25,26);2*1H
